US06541504B1
N-[3-(2-Oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-butyramide
To a solution of 3-(6-Amino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one (50.0 mg, 0.189 mmol) and N,N-diisopropylethylamine (98.8 μL, 0.567 mmol) in 2.0 mL THF was added butyryl chloride (19.6 μL, 0.189 mmol). After stirring at room temperature for 1 h, the slurry was filtered and rinsed with MeOH and EtOAc/hexanes (1:1) to afford the title compound (46.2 mg, 73%) as a yellow solid.

reactant | 3-(6-Amino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 0.189 mmol, 50.0 mg | NC1=CC=C2COC(C2=C1)=C1C(NC2=CC=CC=C12)=O | C16H12N2O2
reactant | N,N-diisopropylethylamine | 0.567 mmol, 98.8 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | butyryl chloride | 0.189 mmol, 19.6 μL | C(CCC)(=O)Cl | C4H7ClO
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | N-[3-(2-Oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-butyramide | 46.2 mg, 73% | O=C1NC2=CC=CC=C2C1=C1OCC2=CC=C(C=C12)NC(CCC)=O | C20H18N2O3
